US07741327B2
A solution of (S)-3-(3-nitro-pyrazol-1-yl)propane-1,2-diol (1.00 g, 5.35 mmol) in acetone (10 mL) was treated with concentrated sulfuric acid (5 drops) and 2,2-dimethoxypropane (3.34 g, 32.09 mmol). The reaction mixture was stirred for 5 h at room temperature. Upon completion of the reaction the mixture was concentrated at reduced pressure and then diluted with ethyl acetate, washed with a saturated sodium bicarbonate solution, a saturated sodium chloride solution and dried over magnesium sulfate The crude product obtained was purified by ISCO flash chromatography (Teledyne Isco RediSep Flash Column 40 g; 0% to 80% ethyl acetate/hexanes) to afford 1-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-3-nitro-1H-pyrazole (0.70 g, 58%) as a yellow oil: LR-ES-MS m/z calculated for C9H13N3O4 [M]+ 227, observed 228 [M+H]+.

reactant | (S)-3-(3-nitro-pyrazol-1-yl)propane-1,2-diol | 5.35 mmol, 1.00 g | [N+](=O)([O-])C1=NN(C=C1)C[C@@H](CO)O | C6H9N3O4
reactant | 2,2-dimethoxypropane | 32.09 mmol, 3.34 g | COC(C)(C)OC | C5H12O2
solvent | acetone | 10 mL | CC(=O)C | C3H6O
catalyst | sulfuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
product | 1-((S)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-3-nitro-1H-pyrazole | 0.70 g, 58% | CC1(OC[C@@H](O1)CN1N=C(C=C1)[N+](=O)[O-])C | C9H13N3O4
